US08669234B2
To a suspension of 4,4′-Dibromo-2′-methoxy-biphenyl-2-ylamine (3.5 g, 9.8 mmol) in H2SO4 (2.4 g) and water (8.5 ml) at 0° C. was added slowly a solution of NaNO2 (682 mg, 9.8 mmol) in water (9 ml). The mixture was stirred at 0° C. for 2 hours. Urea (1.2 g, 20 mmol) was added and the mixture was stirred for 12 hours. The mixture was diluted with water and was heated at 70° C. for 24 hours. The mixture was cooled to 25° C. and was filtered. The collected solid was re-crystallized from benzene/methanol to give 3,7-dibromo-dibenzofuran (2.27 g).

reactant | 4,4′-Dibromo-2′-methoxy-biphenyl-2-ylamine | 9.8 mmol, 3.5 g | BrC1=CC(=C(C=C1)C1=C(C=C(C=C1)Br)OC)N | C13H11Br2NO
reactant | NaNO2 | 9.8 mmol, 682 mg | N(=O)[O-].[Na+]
reactant | Urea | 20 mmol, 1.2 g | NC(=O)N | CH4N2O
solvent | H2SO4 | 2.4 g | OS(=O)(=O)O | H2O4S
solvent | water | 8.5 ml | O | H2O
solvent | water | 9 ml | O | H2O
product | 3,7-dibromo-dibenzofuran | 2.27 g | BrC=1C=CC2=C(OC3=C2C=CC(=C3)Br)C1 | C12H6Br2O
